US09162971B2
(1-a) 1,1-Bis(allyloxy)butane
Butanal (100 mL, 1.11 mol) and allyl alcohol (100 g, 1.72 mol) were dissolved in hexane (400 mL) under a nitrogen atmosphere. To the solution, magnesium sulfate (82.90 g, 0.69 mol) was added, and the mixture was stirred. This mixture was cooled to 10° C. or lower, and p-toluenesulfonic acid monohydrate (3.28 g, 0.017 mol) was added thereto. The reaction mixture was stirred at 15° C. or lower for 1 hour and warmed to room temperature (approximately 25° C.), followed by further stirring for approximately 2.5 hours. The reaction mixture was cooled again to 10° C. or lower, and potassium carbonate (2.38 g) and water (400 mL) were added thereto in this order. The mixture was stirred until insoluble matter was dissolved. The organic layer was separated and then washed with water (100 mL). The obtained organic layer was concentrated under reduced pressure, and the residue was distilled (approximately 20 mmHg, 80-85° C.) to obtain the title compound (132.83 g, yield: 91%, colorless oil substance).

reactant | Butanal | 1.11 mol, 100 mL | C(CCC)=O | C4H8O
reactant | allyl alcohol | 1.72 mol, 100 g | C(C=C)O | C3H6O
reactant | magnesium sulfate | 0.69 mol, 82.90 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | water | 400 mL | O | H2O
reactant | hexane | 400 mL | CCCCCC | C6H14
catalyst | p-toluenesulfonic acid monohydrate | 0.017 mol, 3.28 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
catalyst | potassium carbonate | 2.38 g | C([O-])([O-])=O.[K+].[K+]
product | 1,1-Bis(allyloxy)butane | 132.83 g, yield: 91% | C(C=C)OC(CCC)OCC=C | C10H18O2
